US06784167B2
A solution of (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-nitrophenyl)pyrrolidin-2-one (2.00 g, 6.85 mmol) in EtOAc (15 mL) was added to an argon flushed flask containing 10% palladium on carbon (160 mg). The resulting mixture was placed under an atmosphere of H2 and stirred for 18 h. The reaction mixture then was filtered through a pad of Celite®. The filtrate was concentrated under reduced pressure to give (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-aminophenyl)pyrrolidin-2-one (1.66 g, 92%) as a pale oil: TLC (EtOAc) Rf0.48; HPLC ES-MS m/z (rel abundance) 263 (MH+, 100%).

reactant | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-nitrophenyl)pyrrolidin-2-one | 6.85 mmol, 2.00 g | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O5
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 160 mg | [Pd] | Pd
product | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-aminophenyl)pyrrolidin-2-one | 1.66 g, 92% | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)N | C14H18N2O3
